US06734179B2
To a suspension of 0.1 g (0.24 mMol) 4-fluoro-N-[4-methoxy-7-piperidine-4-yl-benzothiazol-2-yl]-benzamide hydrochloride (1:1) in 3 ml THF were added 0.036 ml triethyl amine. At 0° C. 0.020 ml (0.26 mMol) chloro formic acid methyl ester was added dropwise and stirred for 1 h. Then a mixture of 5 ml sat. aqueous sodium bicarbonate and 10 ml water were added. This was extracted three times with 15 ml ethyl acetate, the combined organic phase were dried over sodium sulfate and evaporated to dryness in vacuo. One obtained 0.080 g (76%) 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-piperidine-1-carboxylic acid methyl ester as a white solid. F.p.: 238-239° C.

reactant | 4-fluoro-N-[4-methoxy-7-piperidine-4-yl-benzothiazol-2-yl]-benzamide hydrochloride | 0.24 mMol, 0.1 g | Cl.FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCNCC3)OC)C=C1
reactant | triethyl amine | 0.036 ml | C(C)N(CC)CC | C6H15N
reactant | chloro formic acid methyl ester | 0.26 mMol, 0.020 ml | COC(=O)Cl | C2H3ClO2
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-piperidine-1-carboxylic acid methyl ester | 0.080 g, 76% | COC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C22H22FN3O4S
